US05288871
4-[(1H-Imidazo[4,5-c]pyridin-2-ylthio)methyl]-phenol benzoate (ester)
The synthesis of this compound proceeded in the same fashion as in Example 15 using 4.17 g (0.028 mol) of 2-mercapto-1H-imidazo[4,5-c]pyridine, 0.70 g (0.030 g atom) of sodium, and 8.04 g (0.028 mol) of 4-(bromomethyl)phenyl benzoate. The filtered precipitate (7.90 g) was recrystallized from methylene chloride to give 5.40 g of product, m.p. 171°-174° C.

reactant | 2-mercapto-1H-imidazo[4,5-c]pyridine | 0.028 mol, 4.17 g | SC=1NC2=C(C=NC=C2)N1 | C6H5N3S
reactant | sodium | 0.70 g | [Na] | Na
reactant | 4-(bromomethyl)phenyl benzoate | 0.028 mol, 8.04 g | C(C1=CC=CC=C1)(=O)OC1=CC=C(C=C1)CBr | C14H11BrO2
product | 4-[(1H-Imidazo[4,5-c]pyridin-2-ylthio)methyl]-phenol benzoate | 5.40 g | C(C1=CC=CC=C1)(=O)OC1=CC=C(C=C1)CSC=1NC2=C(C=NC=C2)N1 | C20H15N3O2S
